US07662974B2
Preparation of ethyl (1-hydroxycyclopentyl)acetate
Under nitrogen atmosphere 30 mL of THF was added to 6.09 g (10 mmol, 1.0 equivalent) of BrZnCH2COOEt.THF)2. Under argon atmosphere, a solution of 0.84 g (10 mmol) of cyclopentanone in 5 mL of THF was added dropwise while stirring at 0˜5° C. The mixture was stirred at 20˜25° C. for 3 hours. 15 mL of 1N hydrochloric acid was added dropwise at 20° C. or lower, followed by dilution with 50 mL of ethyl acetate. Then, the layers were separated. The organic layer was washed successively with 10 mL (×2) of 1N hydrochloric acid, 10 mL of an aqueous saturated sodium chloride solution, 20 mL (×2) of an aqueous saturated sodium bicarbonate solution, and 10 mL (×2) of an aqueous saturated sodium chloride solution. After washing, the organic layer was dried with anhydrous magnesium sulfate. Concentration under reduced pressure afforded 1.73 g of the desired product (yield 94%).

reactant | BrZnCH2COOEt | 10 mmol, 6.09 g, 1.0 equivalent | Br[Zn]CC(=O)OCC
reactant | cyclopentanone | 10 mmol, 0.84 g | C1(CCCC1)=O | C5H8O
reactant | hydrochloric acid | 1N, 15 mL | Cl | ClH
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ethyl (1-hydroxycyclopentyl)acetate | 1.73 g, yield 94% | OC1(CCCC1)CC(=O)OCC | C9H16O3
